US06821977B2
(8-Amino-3,4-dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-methanol
2.25 g (0.01 mol) of nitro benzyl alcohol compound was dissolved in a mixture of 45 mL of methanol and 45 mL of THF. A solid ammonium formate was then added (3.18 g, 0.05 mol, 5 equivalents) followed by the careful addition of 455 mg of 10% palladium on carbon. The reaction mixture was then stirred very slowly at room temperature under reflux condenser. Once it starts, the reaction was rapid and exothermic. After about 1 hour the evolution of hydrogen gas ceased and reaction was checked on TLC (more polar product formation, reaction was dome after this time). The crude reaction was then filtered thru celite, the filtrate diluted with four times of its volume of diethyl ether. The white precipitate that formed was filtered off and dried in vacuo. 1.403 g (72%) of off-white solid was collected.

reactant | nitro benzyl alcohol | 0.01 mol, 2.25 g | [N+](=O)([O-])C(C1=CC=CC=C1)O | C7H7NO3
reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | THF | 45 mL | C1CCOC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
catalyst | palladium on carbon | 455 mg | [Pd] | Pd
product | (8-Amino-3,4-dihydro-2H-benzo[b][1,4]dioxepin-6-yl)-methanol | NC=1C=C(C2=C(OCCCO2)C1)CO | C10H13NO3
